US04973592
A mixture of 2-methylpyrimidin-5-yl 1-cyclohexylcyclohexane1-carboxylate hydrochloride and 10% palladium on carbon (0.12 g) in ethanol (10 ml) was hydrogenated at room pressure. After the hydrogen absorption had ceased, the catalyst was filtered off and the solvent was evaporated in vacuo. The residue was purified by column chromatography (methylene chloride/methanol/water 80:20:2) to give 0.43 g of 2-methyl-1,4,5,6-tetrahydropyrimidin 5-yl 1-cyclohexylcyclohexane-1-carboxylate hydrochloride. M.p. 212°-214° C.

reactant | 2-methylpyrimidin-5-yl 1-cyclohexylcyclohexane1-carboxylate hydrochloride | Cl.C1(CCCCC1)C1(CCCCC1)C(=O)OC=1C=NC(=NC1)C
catalyst | palladium on carbon | 0.12 g | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-methyl-1,4,5,6-tetrahydropyrimidin 5-yl 1-cyclohexylcyclohexane-1-carboxylate hydrochloride | 0.43 g | Cl.C1(CCCCC1)C1(CCCCC1)C(=O)OC1CN=C(NC1)C | InChI=1S/C18H30N2O2.ClH/c1-14-19-12-16(13-20-14)22-17(21)18(10-6-3-7-11-18)15-8-4-2-5-9-15;/h15-16H,2-13H2,1H3,(H,19,20);1H
